US04277472
(e) 9-azabicyclo[3,3,1]nonan-3-one-9-carboxylic acid ethyl ester
186.8 g of pseudo-pelletierine and 264 g of freshly distilled chloroformic acid ethyl ester are slowly heated to a boil in 1 liter of absolute toluene within one hour. A vigorous evolution of gas sets in. The mixture is heated to a boil under reflux for a further 16 hours, then cooled and filtered. The filtrate is concentrated in a vacuum, and the residue is purified through vacuum distillation to obtain 223 g (86.5 percent) of light-yellow oil (b.p. 101° C. at 2.7 Pa.)

reactant | pseudo-pelletierine | 186.8 g | CN1[C@@H]2CCC[C@H]1CC(=O)C2 | C9H15NO
reactant | chloroformic acid ethyl ester | C(C)OC(=O)Cl | C3H5ClO2
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | 9-azabicyclo[3,3,1]nonan-3-one-9-carboxylic acid ethyl ester | 223 g, 86.5 percent | C(C)OC(=O)N1C2CC(CC1CCC2)=O | C11H17NO3
